Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ woman with a history of hypertension and
hyperlipidemia, who presents with abdominal pain, diarrhea, and
BRBPR. 

Patient reports that she had abdominal pain that started at noon
on ___ while eating lunch. Following her meal she had worsening
abdominal pain, which started gradually, then became more 
severe.
It was associated with diarrhea, and the pain improved after 
each
of 5 episodes. The diarrhea eventually became productive of ~1
tsp of bright red blood. The patient states that she has never
had bloody diarrhea, and has never experienced this type of
abdominal pain before. No nausea or vomiting. No fevers or
chills. Patient states that her grandson may have had some
abdominal pain and diarrhea over the past day, though hx is
unclear. 

Of note, patient had +fecal occult blood in ___ and had a
colonoscopy where 2 polyps were removed. 

- In the ED, patient comfortable, no vomiting, fevers/chills, 
CP,
SOB, HA, dizziness. Patient tolerating POs. 
Initial vital signs were notable for: 98.1 93 142/62 16 98% RA 
- Exam notable for: Soft, Mildly tender, suprapubic and other
diffuse abd tenderness, Guaiac positive brown liquid stool in
vault. 
- Patient had 2 bloody BMs since hospital presentation (dark red
blood mixed in with small amounts of stool). Abd pain eventually
resolved.

- Labs were notable for: WBC 11.3, lactate 2.9, Hgb 14 to 11.5
- Studies performed include: CT A/P with descending colonic wall
thickening & pericolonic fat stranding 
- Patient was given: 
___ 01:26 IVF  NS    
___ 01:26 PO Acetaminophen 1000 mg   
___ 09:15 PO/NG amLODIPine 10 mg 
___ 09:15 IV Ciprofloxacin    
___ 10:20 IV MetroNIDAZOLE   
- Consults: None
- Vitals on transfer: 99.7 79 119/57 18 94% RA 

Upon arrival to the floor, the patient is comfortable and her
abdominal pain has completely resolved. 
 
Past Medical History:
hyperlipidemia
hypertension
thyroid surgery
colonic polyps (2 removed in ___
 
Social History:
___
Family History:
Father had ?esophageal cancer, brother- HTN, mother- unknown
 
Physical ___:
ADMISSION PHYSICAL EXAM
VITALS:98.3PO, 128/64, 66, 18, 97%  
GENERAL: Alert and interactive. In no acute distress.
HEENT: Normocephalic, atraumatic. Pupils equal, round,
extraocular muscles intact. Sclera anicteric and without
injection. 
NECK: Supple.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Dry skin on bilateral legs. Warm. Cap refill <2s. No rash.
NEUROLOGIC: grossly intact throughout

DISCHARGE PHYSICAL EXAM
VITALS: T 99.0 PO, BP 102/64, HR 79, RR 16, O2 sat 96% on RA  
GENERAL: Alert and interactive. In no acute distress.
HEENT: Normocephalic, atraumatic. EOMI. Sclera anicteric and
without injection. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops/thrills.
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema.
SKIN: Dry skin on bilateral legs. Warm. No rash.
NEUROLOGIC: A&Ox3, moving all 4 extremities with purpose
 
Pertinent Results:
ADMISSION LABS
___ 10:07PM   WBC-11.3* RBC-4.64 HGB-14.0 HCT-41.5 MCV-89 
MCH-30.2 MCHC-33.7 RDW-12.6 RDWSD-40.9
___ 10:07PM   NEUTS-88.8* LYMPHS-5.7* MONOS-5.0 EOS-0.1* 
BASOS-0.1 IM ___ AbsNeut-10.05* AbsLymp-0.65* AbsMono-0.56 
AbsEos-0.01* AbsBaso-0.01
___ 10:07PM   ___ PTT-25.8 ___
___ 10:07PM   GLUCOSE-191* UREA N-11 CREAT-0.8 SODIUM-138 
POTASSIUM-6.2* CHLORIDE-101 TOTAL CO2-22 ANION GAP-15
___ 10:07PM   ALT(SGPT)-14 AST(SGOT)-47* ALK PHOS-93 TOT 
BILI-0.7
___ 10:07PM   LIPASE-40
___ 10:07PM   ALBUMIN-4.4
___ 11:40PM   LACTATE-2.9* K+-3.5
___ 11:45PM   %HbA1c-6.0 eAG-126

DISCHARGE LABS
___ 04:35AM BLOOD WBC-9.7 RBC-3.98 Hgb-12.0 Hct-36.1 MCV-91 
MCH-30.2 MCHC-33.2 RDW-12.8 RDWSD-42.0 Plt ___
___ 04:35AM BLOOD Glucose-96 UreaN-7 Creat-0.7 Na-144 K-3.6 
Cl-108 HCO3-22 AnGap-14
___ 04:35AM BLOOD ALT-8 AST-15 AlkPhos-87 TotBili-1.1
___ 04:35AM BLOOD Calcium-8.1* Phos-2.9 Mg-2.2
___ 06:05AM BLOOD Lactate-1.1

IMAGING/STUDIES
CT A/P ___- 1. Descending colonic wall thickening and 
pericolonic fat stranding may be compatible with colitis of 
nonspecific etiology. 
2. Cholelithiasis without CT findings of cholecystitis. 
 
Brief Hospital Course:
___ woman with a medical history of hypertension and 
hyperlipidemia, who presented with abdominal pain, diarrhea, and 
BRBPR after eating with CT showing segmental colitis and lab 
work negative for acute blood loss anemia. Her symptoms resolved 
without intervention and she was tolerating a regular diet 
without abdominal pain prior to discharge. Etiology of bright 
red blood per rectum thought to be due to ischemic colitis. She 
and her daughter were counseled on warning signs of worsening 
problems, including ongoing or increased bleeding, fevers or 
chills, lightheadedness or dizziness, chest pain or shortness of 
breath, or other symptoms that concern you, she was encouraged 
to call her primary care doctor and return to the ED

TRANSITIONAL ISSUES
[] Stool studies pending on discharge
[] Patient should follow up with PCP ___ x1 week
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. amLODIPine 10 mg PO DAILY 
3. Alendronate Sodium 70 mg PO QWED 
4. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Alendronate Sodium 70 mg PO QWED  
2.  amLODIPine 10 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
Bright red blood per rectum likely due to ischemic colitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
You were having blood bowel movements and abdominal pain. 

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
You had imaging of your abdomen which showed inflammation in 
part of your colon, which we think is due to a condition called 
ischemic colitis. This happens when you have a short period of 
decreased blood flow to part of your colon, and this condition 
resolves on its own.

WHAT SHOULD I DO WHEN I GO HOME?
Continue to eat and drink as you are able
Take your medications as prescribed
Monitor your stools for blood - the bleeding should resolve 
entirely by ___. If you are having increased amounts of 
bleeding, fevers or chills, lightheadedness or dizziness, chest 
pain or shortness of breath, or other symptoms that concern you, 
please return to the emergency department

Thank you for letting us be a part of your care!
Your ___ Team

 
Followup Instructions:
___